US06872809B2
Uridine (5.5 g, 22.5 mmol), triphenylphosphine (11.8 g, 45.0 mmol) and lithium azide (5.51 g, 112.6 mmol) were dissolved in dried DMF (120 ml). Then, carbon tetrabromide (14.92 g, 45.0 mmol) was added with vigorous stirring and after 2 hours of stirring, about 5 ml of methanol was added to terminate the reaction. The DMF was distilled off under reduced pressure, and the residue was purified by column chromatography (silica gel; chloroform-methanol (30:1 v/v) to give 5′-azido-5′-deoxyuridine (5.40 g, 21.2 mmol, yield 94%). A white solid.

reactant | Uridine | 22.5 mmol, 5.5 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
reactant | triphenylphosphine | 45.0 mmol, 11.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium azide | 112.6 mmol, 5.51 g | [N-]=[N+]=[N-].[Li+]
reactant | carbon tetrabromide | 45.0 mmol, 14.92 g | C(Br)(Br)(Br)Br | CBr4
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | methanol | about 5 ml | CO | CH4O
product | 5′-azido-5′-deoxyuridine | 21.2 mmol, 5.40 g, yield 94% | N(=[N+]=[N-])C[C@@H]1[C@H]([C@H]([C@@H](O1)N1C(=O)NC(=O)C=C1)O)O | C9H11N5O5
